US09381196B2
To a solution of 8-(4-aminobiphenyl-3-ylamino)-8-oxooctanoate (120 mg, 0.34 mmol) in toluene was added a drop of acetic acid. The reaction was heated to 110° C. overnight and concentrated. The residue was purified by biotage column chromatography to give methyl 7-(6-phenyl-1H-benzo[d]imidazol-2-yl)heptanoate (99 mg)

reactant | 8-(4-aminobiphenyl-3-ylamino)-8-oxooctanoate | 0.34 mmol, 120 mg | NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CCCCCCC(=O)[O-])=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 7-(6-phenyl-1H-benzo[d]imidazol-2-yl)heptanoate | 99 mg | C1(=CC=CC=C1)C=1C=CC2=C(NC(=N2)CCCCCCC(=O)OC)C1 | C21H24N2O2
